US09278951B2
Synthesis of 4,5-dichloro-1,3-bis(naphthalen-2-ylmethyl)-1H-imidazolium bromide
4,5-dichloroimidazole (10.0 mmol, 1.370 g) and KOH (11.0 mmol, 0.617 g) were placed in a 50 mL round bottom flask with 10 mL acetonitrile. The mixture was brought to reflux (85° C.) and stirred 1 h until KOH was consumed. 2-Bromomethylnapthalene (10.00 mmol, 2.211 g) was added and the solution was stirred 2.5 hours. KBr was removed by vacuum filtration and a second equivalent of bromomethylnapthalene was added to the filtrate. The mixture was stirred at reflux for 1.5 hours. The white precipitate was collected by filtration and analyzed. Yield: 92.0% 1H NMR (500 MHz, d6-DMSO): δ 5.71 (s, 4H), 7.57-7.62 (m, 6H), 7.95-8.06 (m, 8H), 9.75 (s, 1H) ppm. 13C NMR (500 MHz, d6-DMSO): δ 51.8, 117.9, 119.3, 125.5, 136.7, 136.8, 127.7, 127.8, 128.8, 130.1, 132.7, 132.8, 136.9 ppm.

reactant | 4,5-dichloroimidazole | 10.0 mmol, 1.370 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | KOH | 11.0 mmol, 0.617 g | [OH-].[K+]
reactant | 2-Bromomethylnapthalene | 10.00 mmol, 2.211 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4,5-dichloro-1,3-bis(naphthalen-2-ylmethyl)-1H-imidazolium bromide | Yield: 92.0% | [Br-].ClC=1N(C[NH+](C1Cl)CC1=CC2=CC=CC=C2C=C1)CC1=CC2=CC=CC=C2C=C1 | InChI=1S/C25H20Cl2N2.BrH/c26-24-25(27)29(16-19-10-12-21-6-2-4-8-23(21)14-19)17-28(24)15-18-9-11-20-5-1-3-7-22(20)13-18;/h1-14H,15-17H2;1H
